US07208518B2
Methyl 3,5-dihydroxy-2-naphthoate (3.27 g; 15 mmole) was mixed with potassium carbonate (3 g; 22 mmole), acetone (50 μL) was added and then dimethylsulfate (Merck) (1.56 mL; 16.5 mmole) was slowly added drop by drop. The reaction mixture was refluxed for 2 hours, cooled to room temperature and water (100 mL) was added thereto, whereat all potassium carbonate was dissolved. Dichloromethane (100 mL) was added to the solution and the layers were separated. The organic layer was dried over anhydrous sodium sulfate and the solvent was evaporated to dryness. The solid residue was recrystallized from methanol and 2.4 g (70%) of methyl 3-hydroxy-5-methoxy-2-naphthoate were obtained.

reactant | Methyl 3,5-dihydroxy-2-naphthoate | 15 mmole, 3.27 g | OC=1C(=CC2=CC=CC(=C2C1)O)C(=O)OC | C12H10O4
reactant | potassium carbonate | 22 mmole, 3 g | C([O-])([O-])=O.[K+].[K+]
reactant | acetone | 50 μL | CC(=O)C | C3H6O
reactant | dimethylsulfate | 16.5 mmole, 1.56 mL | COS(=O)(=O)OC | C2H6O4S
solvent | Dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | water | 100 mL | O | H2O
product | methyl 3-hydroxy-5-methoxy-2-naphthoate | 2.4 g, 70% | OC=1C(=CC2=CC=CC(=C2C1)OC)C(=O)OC | C13H12O4
